US07732460B2
(a) 2-[(3,6-Dichloro-4 pyridazinyl)thio]ethanol
A solution of 3,4,6-trichioropyridazine (25 g) in tetrahydrofuran (200 ml) and triethylamine (19 ml) was treated at 0° C. (ice bath cooling) with 2-mercaptoethanol (8.33 ml) over 5 minutes. After the addition was complete, the mixture was stirred at room temperature for 72 hours. The mixture was stirred with aqueous sodium bicarbonate solution and dichloromethane and the solid was collected, washed with water, ether and pentane and dried in vacuo, giving (22.9 g). The combined aqueous and organic fraction was evaporated to half volume giving further solid, which was washed and dried as above (5.0 g). The total yield of solid (27.9 g; 91%) contained some bromo-analogue (5-10%) by NMR.

reactant | 3,4,6-trichioropyridazine | 25 g | ClC=1N=NC(=CC1Cl)Cl | C4HCl3N2
reactant | 2-mercaptoethanol | 8.33 ml | SCCO | C2H6OS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 19 ml | C(C)N(CC)CC | C6H15N
product | 2-[(3,6-Dichloro-4 pyridazinyl)thio]ethanol | ClC=1N=NC(=CC1SCCO)Cl | C6H6Cl2N2OS
